US03947472
A mixture of 1925 g. of 1-chloro-2-methoxynaphthalene, 80 g. of acetyl chloride, 400 g. of aluminum chloride and 2.5 liters of nitrobenzene are stirred for 60 hours at room temperature. The resulting mixture is then washed with dilute hydrochloric acid, dried over sodium sulfate and evaporated to yield 2-acetyl-5-chloro-6-methoxynaphthalene. The resulting acetyl product is added to a mixture of 39 g. of sulfur and 105 g. of morpholine and heated to about 150° C for 3 hours. The mixture is then added to 1 liter of concentrated hydrochloric acid and refluxed for 3 hours. The mixture is then cooled, diluted with 6 liters of ice-water and extracted with methylene chloride. The extracts are combined, washed with water to neutrality, dried over sodium sulfate and evaporated to yield 2-(5'-chloro-6'-methoxy-2'-naphthyl) acetic acid.

reactant | 1-chloro-2-methoxynaphthalene | ClC1=C(C=CC2=CC=CC=C12)OC | C11H9ClO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitrobenzene | 2.5 liters | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-acetyl-5-chloro-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC | C13H11ClO2
